US09371320B2
B) (2E)-3-(1-cyclopentyl-1H-pyrrol-2-yl)acrylic acid
A solution of 1-cyclopentyl-1H-pyrrole-2-carbaldehyde (10.4 g), malonic acid (20.0 g) and piperidine (1.71 mL) in pyridine (64.0 mL) was refluxed overnight. The obtained reaction mixture was allowed to be cooled to room temperature, and then slowly poured into ice and 6N hydrochloric acid (300 mL). The mixture was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (6.74 g).

reactant | 1-cyclopentyl-1H-pyrrole-2-carbaldehyde | 10.4 g | C1(CCCC1)N1C(=CC=C1)C=O | C10H13NO
reactant | malonic acid | 20.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1.71 mL | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 6N, 300 mL | Cl | ClH
solvent | pyridine | 64.0 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-(1-cyclopentyl-1H-pyrrol-2-yl)acrylic acid | 6.74 g | C1(CCCC1)N1C(=CC=C1)/C=C/C(=O)O | C12H15NO2
